US07667041B2
Iron (1.6 g) and ammonium chloride (3 g) were added to the suspension of (E)-3-(5-methoxy-6-nitropyridin-3-yl)acrylic acid ethyl ester (787 mg) in ethanol (40 mL) and water (8 mL) obtained above, and the reaction solution was heated to reflux for 1 hour. After the reaction solution was allowed to be cooled to room temperature, deposited substance was filtered by celite. Ethyl acetate and saturated sodium bicarbonate water were added to the filtrate, and the organic layer was partitioned. After drying the obtained organic layer with anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate 2:1), and 506 mg (66%) (E)-3-(6-amino-5-methoxypyridin-3-yl)acrylic acid ethyl ester was obtained. The physical properties of the compound are as follows.

reactant | ammonium chloride | 3 g | [Cl-].[NH4+]
reactant | (E)-3-(5-methoxy-6-nitropyridin-3-yl)acrylic acid ethyl ester | 787 mg | C(C)OC(\C=C\C=1C=NC(=C(C1)OC)[N+](=O)[O-])=O | C11H12N2O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
catalyst | Iron | 1.6 g | [Fe] | Fe
product | (E)-3-(6-amino-5-methoxypyridin-3-yl)acrylic acid ethyl ester | 506 mg, 66% | C(C)OC(\C=C\C=1C=NC(=C(C1)OC)N)=O | C11H14N2O3
